US07238716B2
To a mixture of 2-[5-hydroxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile (0.30 g) and ethanol (3 mL) was added a 4N aqueous potassium hydroxide solution (1 mL) and the mixture was stirred with heating under reflux for 24 hrs. 1N Hydrochloric acid and water were added to acidify the reaction mixture, and the mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (0.05 g, 16%) of 2-[5-hydroxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid from a fraction eluted with ethyl acetate-hexane (5:1, v/v). Recrystallization from tetrahydrofuran-hexane gave pale-brown prism crystals. melting point: 194-195° C.

reactant | 2-[5-hydroxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile | 0.30 g | OC=1C=CC(=C(C1)CC#N)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H22N2O4
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | potassium hydroxide | 4N, 1 mL | [OH-].[K+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | 2-[5-hydroxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid | 0.05 g, 16% | OC=1C=CC(=C(C1)CC(=O)O)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H23NO6
